US04780466
8-[3-[4-(2-Quinolinyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione
A mixture of 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione (5.7 g), 1-(2-quinolinyl)piperazine (4.0 g) and diisopropylethylamine (6.6 ml) in 100 ml of dry CH3CN was heated to 80° with stirring under N2.

reactant | 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione | 5.7 g | BrCCCON1C(CC2(CCCC2)CC1=O)=O | C12H18BrNO3
reactant | 1-(2-quinolinyl)piperazine | 4.0 g | N1=C(C=CC2=CC=CC=C12)N1CCNCC1 | C13H15N3
reactant | diisopropylethylamine | 6.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 8-[3-[4-(2-Quinolinyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O | C25H32N4O3
